US08580831B2
5-(3-Fluoro-phenyl)-oxazole-4-carboxylic acid {2-[4-(1,1-difluoro-ethyl)-thiazol-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide
Following general procedure Z2, starting from 2-[4-(1,1-difluoro-ethyl)-thiazol-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 5-(3-fluoro-phenyl)-oxazole-4-carboxylic acid.

reactant | 2-[4-(1,1-difluoro-ethyl)-thiazol-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | FC(C)(F)C=1N=C(SC1)CN1N=CC(=N1)N | C8H9F2N5S
reactant | 5-(3-fluoro-phenyl)-oxazole-4-carboxylic acid | FC=1C=C(C=CC1)C1=C(N=CO1)C(=O)O | C10H6FNO3
product | 5-(3-Fluoro-phenyl)-oxazole-4-carboxylic acid {2-[4-(1,1-difluoro-ethyl)-thiazol-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide | FC(C)(F)C=1N=C(SC1)CN1N=CC(=N1)NC(=O)C=1N=COC1C1=CC(=CC=C1)F | C18H13F3N6O2S
